US06121308
1-methyl-2-[(4-(N-cyclohexyloxycarbonylamidino)phenyl)-oxymethyl]-5-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino)-benzimidazole
Prepared analogously to Example 31 from 1-methyl-2-[(4-amidino-phenyl)-oxymethyl]-5-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino)-benzimidazole and cyclohexyl chloroformate.

reactant | 1-methyl-2-[(4-amidino-phenyl)-oxymethyl]-5-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OC)S(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C(N)=N | C28H26N6O5S
reactant | cyclohexyl chloroformate | ClC(=O)OC1CCCCC1 | C7H11ClO2
product | 1-methyl-2-[(4-(N-cyclohexyloxycarbonylamidino)phenyl)-oxymethyl]-5-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OC)S(=O)(=O)C=2C=CC=C1C=CC=NC21)COC2=CC=C(C=C2)C(NC(=O)OC2CCCCC2)=N | C35H36N6O7S
